US03934022
34 g (0.5 mol) imidazole are dissolved at room temperature, with stirring, in a solution of 148.25 g, (0.5 mol) of (p-fluorophenyl)-(diphenyl)-methyl chloride in 500 ml acetonitrile. Following this, 51 g (0.5 mol) triethylamine are added dropwise; triethylamine hydrochloride separates immediately upon heating. For completion of the reaction, the mixture is heated at 50°C for 3 hours. After cooling, the reaction mixture is stirred together with 1 liter of benzene and washed salt-free with water. The benzene solution is dried over anhydrous sodium sulfate, filtered and concentrated by evaporation; giving 148 g of crude 1-[(p-fluorophenyl)-(bisphenyl)-methyl]-imidazole of m.p. 146°C (= 91% of the theory). By recrystallization from 300 ml benzene and 50 ml ligroin, the m.p. rises to 148°C.

reactant | imidazole | 0.5 mol, 34 g | N1C=NC=C1 | C3H4N2
reactant | (p-fluorophenyl)-(diphenyl)-methyl chloride | 0.5 mol | FC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H14ClF
reactant | triethylamine | 0.5 mol, 51 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | 1-[(p-fluorophenyl)-(bisphenyl)-methyl]-imidazole | 148 g | FC1=CC=C(C=C1)C(N1C=NC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
